US05366957
A mixture of 3-cyclopropyl-1-(2-fluoro-4-methylsulphonylphenyl)-propan-1,3-dione (7.4 g), triethyl orthoformate (8.5 g) and acetic anhydride was stirred and heated at reflux for 4 hours. The mixture was evaporated to dryness. Xylene was added and the mixture was re-evaporated to give 3-cyclopropyl-2-ethoxymethylene-1-(2-fluoro-4-methylsulphonylphenyl)-propan-1,3-dione (8.8 g) as a red oil which was not further purified.

reactant | 3-cyclopropyl-1-(2-fluoro-4-methylsulphonylphenyl)-propan-1,3-dione | 7.4 g | C1(CC1)C(CC(=O)C1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C13H13FO4S
reactant | triethyl orthoformate | 8.5 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-cyclopropyl-2-ethoxymethylene-1-(2-fluoro-4-methylsulphonylphenyl)-propan-1,3-dione | 8.8 g | C1(CC1)C(C(C(=O)C1=C(C=C(C=C1)S(=O)(=O)C)F)=COCC)=O | C16H17FO5S
